US04272531
To a suspension of 2.0 g. (5.2 Mmol.) of 2,2'-dithiobis(5-chlorobenzamide) in 40 ml. of ether was added in portions over thirty minutes 0.8 g. (21 Mmol.) of lithium aluminum hydride. The mixture was refluxed for three hours and then stirred at room temperature overnight. Excess hydride was destroyed by the dropwise addition of 10 ml. of ethyl acetate followed by 50 ml. of 3 N hydrochloric acid. The organic phase was separated, extracted with 25 ml. of 3 N hydrochloric acid and the combined acidic extracts adjusted to pH 5.0 with sodium carbonate. A solution of 5 ml. of 37% formaldehyde was added and the mixture stirred in an ice bath for 15 minutes. The pH was raised to 8.0 with potassium carbonate and the resulting suspension extracted with ethyl acetate. The combined extracts were dried, filtered and evaporated. The residue was dissolved in 20 ml. of ether and treated with 5 ml. of saturated and etheral hydrogen chloride. A gummy solid precipitated which was dissolved and partitioned between 5% sodium bicarbonate and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined extracts dried and evaporated. The residue was crystallized from acetone to give as a white solid 3,3'-methylene-bis(2,3-dihydro-6-chloro-4H-1,3-benzothiazine.

reactant | 2,2'-dithiobis(5-chlorobenzamide) | 5.2 Mmol | ClC=1C=CC(=C(C(=O)N)C1)SSC1=C(C(=O)N)C=C(C=C1)Cl | C14H10Cl2N2O2S2
reactant | lithium aluminum hydride | 21 Mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
product | 2,3-dihydro-6-chloro-4H-1,3-benzothiazine | ClC=1C=CC2=C(CNCS2)C1 | C8H8ClNS
